US09447030B2
To a solution of 1-(2-nitro-5-(thiophen-2-yl)phenyl)-3-(piperidin-4-ylmethyl)urea (0.10 g, 0.28 mmol, 1.0 equiv.) in methanol was added Pd/C (0.03 g, 0.03 mmol, 0.10 equiv.). The reaction mixture was stirred at room temperature under H2 balloon pressure for 1 h. The reaction was filtered through celite and concentrated under reduced pressure. The crude solid was washed with ether to obtain of pure 1-(2-amino-5-(thiophen-2-yl)phenyl)-3-(piperidin-4-ylmethyl)urea (0.06 g, 65% yield). ESI+ MS: m/z 331 ([M]+); 1H NMR (500 MHz, d6-DMSO): δ 7.64 (d, J=12.0 Hz, 2H), 7.33 (d, J=5.5 Hz, 1H), 7.17 (d, J=3.0 Hz, 1H), 7.10-7.09 (m, 1H), 7.03 (t, J=5.0 Hz, 1H), 6.71 (d, J=8.0 Hz, 1H), 6.34 (m, 1H), 4.90-4.89 (bs, 2H), 3.16 (d, J=12.5 Hz, 2H), 2.99 (t, J=6.0 Hz, 3H), 2.65 (t, J=12.5 Hz, 2H), 1.71 (d, J=13.0 Hz, 1H), 1.62-1.60 (m, 2H), 1.20-1.13 (m, 2H).

reactant | 1-(2-nitro-5-(thiophen-2-yl)phenyl)-3-(piperidin-4-ylmethyl)urea | 0.28 mmol, 0.10 g, 1.0 equiv. | [N+](=O)([O-])C1=C(C=C(C=C1)C=1SC=CC1)NC(=O)NCC1CCNCC1 | C17H20N4O3S
solvent | methanol | CO | CH4O
catalyst | Pd/C | 0.03 mmol, 0.03 g, 0.10 equiv. | [Pd] | Pd
product | 1-(2-amino-5-(thiophen-2-yl)phenyl)-3-(piperidin-4-ylmethyl)urea | 0.06 g, 65% yield | NC1=C(C=C(C=C1)C=1SC=CC1)NC(=O)NCC1CCNCC1 | C17H22N4OS
